US08633237B2
b) (S)-2-(1-methylethylsulfonamido)-N-(2-(methylsulfonamido)phenyl)-2,3-dihydro-1H-indene-5-carboxamide
A mixture of triethylamine (0.083 mmol, 0.012 mL, 8.38 mg) and N-(2-aminophenyl)methanesulfonamide (0.083 mmol, 15.43 mg) in DCM (2 mL) was added to a solution of (S)-2-(1-methylethylsulfonamido)-2,3-dihydro-1H-indene-5-carbonyl chloride (0.083 mmol, 25 mg) in DCM (1 mL) was added. The reaction mixture was stirred at room temp overnight. H2O was added and the reaction mixture filtered through a hydrophobic frit and the DCM layer was concentrated under reduced pressure. The residue was purified by prep-HPLC to give desired product (10.7 mg, 28.6%). MS (ESI): m/z [M−H]− 450.2

reactant | triethylamine | 0.083 mmol, 0.012 mL, 8.38 mg | C(C)N(CC)CC | C6H15N
reactant | N-(2-aminophenyl)methanesulfonamide | 0.083 mmol, 15.43 mg | NC1=C(C=CC=C1)NS(=O)(=O)C | C7H10N2O2S
reactant | (S)-2-(1-methylethylsulfonamido)-2,3-dihydro-1H-indene-5-carbonyl chloride | 0.083 mmol, 25 mg | CC(C)S(=O)(=O)N[C@H]1CC2=CC=C(C=C2C1)C(=O)Cl | C13H16ClNO3S
reactant | H2O | O | H2O
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | (S)-2-(1-methylethylsulfonamido)-N-(2-(methylsulfonamido)phenyl)-2,3-dihydro-1H-indene-5-carboxamide | 10.7 mg, 28.6% | CC(C)S(=O)(=O)N[C@H]1CC2=CC=C(C=C2C1)C(=O)NC1=C(C=CC=C1)NS(=O)(=O)C | C20H25N3O5S2
